US08461339B2
B. N-Acetylpiperazine
1-Acetyl-4-tert-butoxycarbonylpiperazine was treated with 8 M HCl/EtOAc to afford the title compound in near quantitative yield.

reactant | 1-Acetyl-4-tert-butoxycarbonylpiperazine | C(C)(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C11H20N2O3
reactant | HCl EtOAc | 8 M | Cl.CCOC(=O)C
product | N-Acetylpiperazine | quantitative yield | C(C)(=O)N1CCNCC1 | C6H12N2O
